Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
Intubated ___
 
History of Present Illness:
___ with h/o HTN, ___ disease with dementia component
(A/Ox2 at baseline), dysphagia on pureed diet presents to the ED
with c/o respiratory distress. 

The patient resides at a ___ and was noted to have a productive
cough for the past several days by staff. On day of admission he
was noted to be febrile and hypoxic to 81% on room air. When EMS
arrived to the ___, he was placed on 10L NRB with improvement to
96%. 

On arrival to the ED, the patient was noted to be febrile to 104
and satting 94% on NRB. He was noted to be persistently hypoxic
to the low ___ on 15L NRB. He was deemed to altered to tolerate
BiPAP and was thus intubated for his hypoxia.  

Upon arrival to the unit the patient was intubated and sedated. 

 
Past Medical History:
- HTN
- HLD
- Supranuclear palsy/ophthalmoplegia
- ___ disease
- Dementia
 
Social History:
___
Family History:
 Per prior discharge summary: Brothers with history of MI and 
skin cancers.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp: 99.1, HR:82, BP: 127/103, RR:18, 96% intubated  
GEN:  intubated and sedated. NAD
EYES:  Eyelid margins are erythematous 
CV: RRR, no m/r/g
RESP: intubated. Coarse breath sounds throughout, no crackles or
wheezing
GI: abdomen soft and nontender. No organomegaly appreciated 
SKIN: warm and dry 

DISCHARGE PHYSICAL EXAM:

VS:  T 97.5 BP 146/79 HR 66 RR 22 O2 sat 95% on room air
GEN:  awake, alert, able to say a few words with poor 
enunciation, no acute distress
EYES:  Eyelid margins are erythematous, eyelids drooping left 
more than right, unable to fully close either eye
CV: RRR, no m/r/g
RESP: normal work of breathing, referred upper airway sounds
GI: abdomen soft and nontender. No organomegaly appreciated 
SKIN: warm and dry 
PSYCH: affect appropriate
NEURO: able to move arms, shake hands, speak a few words. 
Increased tone, decreased muscle bulk
 
Pertinent Results:
ADMISSION LABS:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___ 05:39PM BLOOD WBC-12.8* RBC-4.93 Hgb-15.7 Hct-48.2 
MCV-98 MCH-31.8 MCHC-32.6 RDW-12.8 RDWSD-45.7 Plt ___
___ 05:39PM BLOOD Neuts-91.6* Lymphs-3.4* Monos-4.2* 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-11.67* AbsLymp-0.44* 
AbsMono-0.54 AbsEos-0.03* AbsBaso-0.03
___ 05:39PM BLOOD ___ PTT-29.2 ___
___ 05:39PM BLOOD Glucose-182* UreaN-31* Creat-0.8 Na-140 
K-6.2* Cl-104 HCO3-22 AnGap-14
___ 05:39PM BLOOD ALT-13 AST-59* AlkPhos-82 TotBili-0.8
___ 05:39PM BLOOD Lipase-45
___ 05:39PM BLOOD cTropnT-<0.01
___ 05:39PM BLOOD Albumin-3.6 Calcium-9.9 Phos-2.8 Mg-2.1
___ 02:40AM BLOOD calTIBC-120* VitB12-693 Ferritn-564* 
TRF-92*
___ 02:40AM BLOOD %HbA1c-5.1 eAG-100
___ 07:26PM BLOOD Vanco-13.5
___ 05:39PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 08:58PM BLOOD Type-ART Temp-37 pO2-83* pCO2-26* 
pH-7.49* calTCO2-20* Base XS--1
___ 05:47PM BLOOD Lactate-3.8* K-4.1

DISCHARGE LABS:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___ 07:10AM BLOOD WBC-7.1 RBC-4.24* Hgb-13.4* Hct-41.1 
MCV-97 MCH-31.6 MCHC-32.6 RDW-13.5 RDWSD-48.5* Plt ___
___ 07:15AM BLOOD Glucose-95 UreaN-15 Creat-0.4* Na-139 
K-4.5 Cl-108 HCO3-22 AnGap-9*
___ 07:15AM BLOOD Calcium-8.3* Phos-3.8 Mg-2.4

MICROBIOLOGY:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___ SPUTUM CULTURE 
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------ <=0.5 S

___ URINE LEGIONELLA negative
___ MRSA SCREEN negative
___ BLOOD CULTURES negative (FINAL)
___ URINE CULTURE negative (FINAL)

IMAGING:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___ CHEST (PORTABLE AP) 
Increased opacity at the left lung base is concerning for 
developing pneumonia versus aspiration. 

___ CHEST (PORTABLE AP) 
Concurrent pneumonia and atelectasis, left lower lobe continues 
to progress. There may be new small area of pneumonia at the 
right lung base. Findings point to recent severe aspiration. 
Pulmonary vasculature is now engorged, but heart size remains 
normal. Small left pleural effusion is likely. No pneumothorax. 

___ CHEST (PORTABLE AP) 
In comparison with the study of ___, the tip of the 
endotracheal tube 
again measures approximately 3 cm above the carina.  Allowing 
for differences in degree of obliquity, the cardiac silhouette 
is less prominent and the degree of pulmonary vascular 
congestion has decreased.  More focal area of opacification at 
the right base has essentially cleared. Continued opacification 
at the left base is consistent with pleural fluid and volume 
loss in left lower lobe.  Minimal changes are seen at the right 
base. 

___ CHEST (PORTABLE AP) 
In comparison with the study ___, the monitoring and 
support devices are unchanged. Increased opacification is again 
seen at the left base with obscuration hemidiaphragm, consistent 
with pleural fluid and volume loss in left lower lobe. No acute 
focal pneumonia. 

 
Brief Hospital Course:
============================================
Mr. ___ is a ___ man with hx HTN and ___ disease who 
presents with productive cough and hypoxemia, intubated in the 
ED, and admitted to the ___ for hypoxemic respiratory failure. 
He was ultimately transferred to the floor for consideration of 
G tube placement as he was found to be aspirating on swallow 
study and required strict NPO status. 

ACUTE ISSUES:
============================================
# Goals of care:
# History of progressive supranuclear ___:
# Acute hypoxemic respiratory failure 
# CAP vs Aspiration PNA
# Dysphagia:
# Malnutrition:
Presented with dyspnea and hypoxemia. Intubated in the ED on 
___, self-extubated on ___ and remained stable. CXR showed LLL 
opacity which was concerning for infection vs. atelectasis with 
small pleural effusion. He was treated with cefepime 
(___), and azithromycin (___). He was also treated 
with vancomycin (___) and was discontinued due to negative 
MRSA nasal swab. However, his sputum cultures came back positive 
for MRSA so he was restarted on vancomycin from ___ to 
complete his full course. Also was on Unasyn from ___ through 
___. Swallow study was notable for aspiration requiring strict 
NPO. He was consented for G tube placement on ___ by ___ but 
refused the study (he indicated this with a "thumbs down"). 
After multiple discussions with family members (also involved 
ethics and palliative care consultants), particularly patient's 
nephew ___ (who is HCP and patient defers for all decisions), 
eventually decision was mutually made to NOT place PEG tube (per 
patient's perceived wishes) and transition Mr. ___ to hospice 
care. Code status changed to DNR/DNI. MOLST signed.

CHRONIC ISSUES:
============================================
# Progressive Supranuclear Palsy 
Continued home carbidopa-levodopa. Switched to SL but still 
unable to take due to aspiration risk. Due to no enteral access, 
this was discontinued.

# HTN
Discontinued oral meds due to lack of enteral access.

# Fatty liver
Held home pravastatin given elevated LFTs, and eventually 
discontinued entirely due to lack of enteral access.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Artificial Tears GEL 1% 1 DROP BOTH EYES TID 
4. Carbidopa-Levodopa (___) 1 TAB PO TID 
5. HydrOXYzine 25 mg PO QHS 
6. Pravastatin 20 mg PO QPM 
7. Artificial Tears GEL 1% 1 DROP BOTH EYES Q2H:PRN dry eyes 
8. Artificial Tear Ointment 1 Appl BOTH EYES QID 
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Artificial Tears GEL 1% 1 DROP BOTH EYES TID 
4. Carbidopa-Levodopa (___) 1 TAB PO TID 
5. HydrOXYzine 25 mg PO QHS 
6. Pravastatin 20 mg PO QPM 
7. Artificial Tears GEL 1% 1 DROP BOTH EYES Q2H:PRN dry eyes 
8. Artificial Tear Ointment 1 Appl BOTH EYES QID 

 
Discharge Medications:
1.  LORazepam Oral Solution 0.5 mg PO Q6H:PRN anxiety or 
agitation 
RX *lorazepam 2 mg/mL 0.5 (One half) ml by mouth every six (6) 
hours Refills:*0 
2.  Morphine Sulfate (Concentrated Oral Solution) 20 mg/mL 5 mg 
PO Q4H:PRN pain and air hunger 
RX *morphine concentrate 20 mg/mL 0.25 ml by mouth every four 
(4) hours Disp ___ Milliliter Refills:*0 
3.  Artificial Tear Ointment 1 Appl BOTH EYES QID  
4.  Artificial Tears GEL 1% 1 DROP BOTH EYES TID  
5.  Artificial Tears GEL 1% 1 DROP BOTH EYES Q2H:PRN dry eyes  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Aspiration pneumonia 
Severe malnutrition
Progressive supranuclear palsy

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Mr. ___,

You were admitted to the ICU for an aspiration pneumonia 
requiring intubation and were subsequently found to be 
aspirating on a swallow study. You were treated with IV 
antibiotics. Your nutritionist and swallow specialist 
recommended that we avoid any food or medications by mouth. We 
discussed whether you would like a feeding tube (PEG tube) into 
your stomach, however you did not want this.

You were discharged with hospice care.

It was a pleasure taking care of you.

Sincerely,

Your ___ Team
 
Followup Instructions:
___